US08912188B2
To a solution of methyl 3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (0.5 g, 2.1 mmol) in DMSO (10 mL) was added (R)-butan-2-amine (570 mg, 7.79 mmol) and DIEA (850 mg, 6.58 mmol). The resulting solution was stirred for 4 hours at 70° C. and then quenched by the addition of water (50 mL). The solids were collected by filtration to afford (R)-methyl 3-(sec-butylamino)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate as a white solid (425 mg, 75%).

reactant | methyl 3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 2.1 mmol, 0.5 g | ClC=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C10H7ClN2O3
reactant | (R)-butan-2-amine | 7.79 mmol, 570 mg | C[C@H](CC)N | C4H11N
reactant | DIEA | 6.58 mmol, 850 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | (R)-methyl 3-(sec-butylamino)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 425 mg, 75% | [C@@H](C)(CC)NC=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C14H17N3O3
